US09340538B2
Step B: 3-(morpholin-3-yl)propanoic acid hydrochloride
To a solution of 3-(4-(tert-butoxycarbonyl)morpholin-3-yl)propanoic acid (0.3 g, 1.2 mmol) in EtOAc (2 mL) was added the solution of HCl in EtOAc (6 mol/L, 6 mL). The mixture was stirred closedly at 25° C. for 2 hours and filtered. The residue was washed with EtOAc (4 mL) to give the title compound as a white solid (0.21 g, 90%). The compound was characterized by the following spectroscopic data:

reactant | 3-(4-(tert-butoxycarbonyl)morpholin-3-yl)propanoic acid | 1.2 mmol, 0.3 g | C(C)(C)(C)OC(=O)N1C(COCC1)CCC(=O)O | C12H21NO5
reactant | HCl | Cl | ClH
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 6 mol/L, 6 mL | CCOC(=O)C | C4H8O2
product | 3-(morpholin-3-yl)propanoic acid hydrochloride | 0.21 g, 90% | Cl.N1C(COCC1)CCC(=O)O | InChI=1S/C7H13NO3.ClH/c9-7(10)2-1-6-5-11-4-3-8-6;/h6,8H,1-5H2,(H,9,10);1H
